US06984653B2
Triethylamine (32.9 ml) and methanesulfonyl chloride (14.6 ml) were added to a solution of 4-(4-tert-butoxyphenyl)butan-1-ol (35.0 g) in ethyl acetate (360 ml) at 0° C., and the mixture was stirred at 0° C. for 1.5 hr. By adding water, the reaction mixture was separated. The organic layer was washed successively with 5% sodium hydrogen carbonate solution and water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crude 4-(4-tert-butoxyphenyl)butyl methanesulfonate (50.2 g). A suspension of the product (50.2 g) and sodium iodide (46.1 g) in acetone (500 ml) was stirred for 4.5 hr. By adding water and diisopropyl ether, the reaction mixture was separated. The organic layer was successively washed with 10% hypo-water and water, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the titled compound (52.1 g) as a colorless oil.

reactant | Triethylamine | 32.9 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(4-tert-butoxyphenyl)butan-1-ol | 35.0 g | C(C)(C)(C)OC1=CC=C(C=C1)CCCCO | C14H22O2
reactant | water | O | H2O
solvent | ethyl acetate | 360 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-tert-butoxyphenyl)butyl methanesulfonate | 50.2 g | CS(=O)(=O)OCCCCC1=CC=C(C=C1)OC(C)(C)C | C15H24O4S
